US08541575B2
4-[3-(3-aminophenyl)-1-(4-methoxybenzyl)-1H-pyrazol-4-yl]pyrimidin-2-amine
1.6 g (3.98 mmol) of 4-[1-(4-methoxybenzyl)-3-(3-nitrophenyl)-1H-pyrazol-4-yl]-pyrimidin-2-amine were dissolved in a mixture of 100 ml of dioxane and 30 ml of water and 2.12 g (40 mmol) of ammonium chloride and 1.05 g (16 mmol) of metallic zinc were added successively. The reaction mixture was stirred at 100° C. for 6 hours. The suspension was then filtered through a celite pad and the filtrate evaporated. The residue was partitioned between dichloromethane and aqueous sodium hydrogenocarbonate, dried over sodium sulphate and evaporated again, giving 1 g (67%) of the title compound.

reactant | 4-[1-(4-methoxybenzyl)-3-(3-nitrophenyl)-1H-pyrazol-4-yl]-pyrimidin-2-amine | 3.98 mmol, 1.6 g | COC1=CC=C(CN2N=C(C(=C2)C2=NC(=NC=C2)N)C2=CC(=CC=C2)[N+](=O)[O-])C=C1 | C21H18N6O3
reactant | ammonium chloride | 40 mmol, 2.12 g | [Cl-].[NH4+]
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | water | 30 ml | O | H2O
catalyst | zinc | 16 mmol, 1.05 g | [Zn] | Zn
product | 4-[3-(3-aminophenyl)-1-(4-methoxybenzyl)-1H-pyrazol-4-yl]pyrimidin-2-amine | 1 g, 67% | NC=1C=C(C=CC1)C1=NN(C=C1C1=NC(=NC=C1)N)CC1=CC=C(C=C1)OC | C21H20N6O
